US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(2-(2-(allyloxy)ethoxy)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound AW)
To a solution of 1-(2-(allyloxy)ethoxy)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene (AV) (1.74 g, 4.25 mmol) in anhydrous THF (10 mL) at −78° C., was added dropwise n-BuLi (2.9 M, 1.76 mL) and stirring was continued at −78° C. for 1 hour. The mixture was transferred to a solution of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one (2.18 g, 4.68 mmol) in anhydrous THF (10 mL) at −78° C., and stirring was continued at −78° C. for 2 hours until the starting material was consumed. After quenching with methanesulfonic acid (1 g in 10 mL MeOH), the mixture was allowed to warm to room temperature and stirred overnight. H2O (20 mL) was added, and the organic phase was separated. The aqueous phase was extracted with EtOAc. The combined organic phases were washed with saturated NaHCO3, water and brine, and then dried with anhydrous Na2SO4, filtered and concentrated. The residue was purified by flash chromatography to provide crude product (0.8 g, Rf=0.1-0.2, EtOAc:PE=2:1). The crude product was dissolved in anhydrous CH3CN (10 mL), Et3SiH (1 mL) was added, the mixture was cooled to −5° C., and BF3.Et2O (0.6 mL) was added dropwise. The reaction was allowed to warm to 20° C. and stirred overnight. After the reaction was complete, it was quenched with saturated aqueous NaHCO3. The solvent was removed under vacuum and the residue was extracted with EtOAc and washed with water and brine. The residue was then dried with anhydrous Na2SO4, filtered and concentrated to give a solid, which was purified by preparative HPLC and freeze-dried to give final product AW as a white powder. 1H-NMR (CDCl3, 300 MHz) δ 7.34 (s, 1H), 7.07 (s, 4H), 7.04 (s, 1H), 5.96 (m, 1H), 5.28˜5.35 (m, 1H), 5.17˜5.22 (m, 1H), 4.54 (d, J=9.0 Hz, 1H), 4.03˜4.15 (m, 4H), 3.97 (d, J=2.1 Hz, 2H), 3.79˜3.87 (m, 2H), 3.62˜3.72 (m, 1H), 3.45˜3.51 (1,2H), 3.35˜3.44 (m, 2H), 3.29˜3.31 (m, 4H), 2.56 (q, J=7.5 Hz, 2H), 1.18 (t, J=7.5 Hz, 3H).

reactant | 1-(2-(allyloxy)ethoxy)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene | 4.25 mmol, 1.74 g | C(C=C)OCCOC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)Br | C20H22BrClO2
reactant | n-BuLi | 2.9 M, 1.76 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one | 4.68 mmol, 2.18 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | Et3SiH | 1 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.6 mL | B(F)(F)F.CCOCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | (2S,3R,4R,5S,6R)-2-(2-(2-(allyloxy)ethoxy)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | C(C=C)OCCOC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C26H33ClO7
